US07790724B2
c) 4-Cyano-1H-imidazole-2-carboxylic acid [4-carbamoyl-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide
The title compound was prepared by the procedure of Example 24, step (b) using 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-carbamoyl-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide (as prepared in the previous step, 100 mg, 0.203 mmol) and tetrabutylammonium fluoride (1.01 mL, 1.01 mmol, 1.0 M in THF). Silica gel chromatography (5% MeOH/DCM) afforded the title compound (14.1 mg, 19%) as a white solid. 1H-NMR (CD3OD; 400 MHz): δ 8.42 (d, 1H, J=8.6 Hz), 8.00 (s, 1H), 7.81 (dd, 1H, J=8.6, 2.3 Hz), 7.75 (d, 1H, J=2.3 Hz), 5.81 (m, 1H), 2.28-2.40 (m, 2H), 2.04-2.17 (m, 2H), 1.63 (t, 2H, J=6.3 Hz), 1.11 (s, 6H). Mass spectrum (ESI, m/z): Calcd. for C20H21N5O2, 364.2 (M+H), found 364.1.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-carbamoyl-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | C(N)(=O)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCC(CC1)(C)C | C26H35N5O3Si
reactant | tetrabutylammonium fluoride | 1.01 mmol, 1.0 M, 1.01 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | MeOH DCM | CO.C(Cl)Cl
product | 4-Cyano-1H-imidazole-2-carboxylic acid [4-carbamoyl-2-(4,4-dimethyl-cyclohex-1-enyl)-phenyl]-amide | 14.1 mg, 19% | C(N)(=O)C1=CC(=C(C=C1)NC(=O)C=1NC=C(N1)C#N)C1=CCC(CC1)(C)C | C20H21N5O2
